US05521184
248.2 g (0.96 mol) of 2-methyl-5-nitrophenylguanidine nitrate are added to a solution of 170 g (0.96 mol) of 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one in 2.0 liters of isopropanol. After the addition of 42.5 g of sodium hydroxide, the reddish suspension is boiled at reflux for 12 hours. After cooling to 0°, filtration, washing with 2.0 liters of isopropanol and 3×400 ml of methanol and drying, there is obtained N-(2-methyl-5-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine-amine, m.p. 195°-198°, Rf =0.68 (methylene chloride:methanol=9.1).

reactant | 2-methyl-5-nitrophenylguanidine nitrate | 0.96 mol, 248.2 g | [N+](=O)(O)[O-].CC1=C(C=C(C=C1)[N+](=O)[O-])NC(=N)N
reactant | 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one | 0.96 mol, 170 g | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
reactant | sodium hydroxide | 42.5 g | [OH-].[Na+]
solvent | isopropanol | 2.0 liters | C(C)(C)O | C3H8O
product | N-(2-methyl-5-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine-amine | CC1=C(C=C(C=C1)[N+](=O)[O-])NC1=NC=CC(=N1)C=1C=NC=CC1 | C16H13N5O2
